US09278982B2
A mixture of 2-chloro-6-methylnicotinonitrile (220 mg, 1.45 mmol) and thiourea (348 mg, 4.57 mmol) was heated at reflux (118° C.) in n-butanol for 4 h. After cooling to room temperature, the yellow solution turned to a suspension containing light yellow solids. The solids were collected by filtration, rinsed with n-butanol, and dried in vacuo to give 2-mercapto-6-methylnicotinonitrile (218 mg, 100% yield). C7H6N2S; yellow powder; 1H NMR (400 MHz, CDCl3) δ 7.97 (1H, dt, J=8, 0.8 Hz), 7.79 (1H, dt, J=8, 0.8 Hz), 7.70 (1H, td, J=8, 1.2 Hz), 7.46 (1H, td, J=8, 1.2 Hz), 4.64 (2H, s); 13C NMR (100 MHz, CDCl3) δ 177.39, 154.77, 144.83, 117.1, 113.3, 112.7, 19.2; ESI-HRMS (negative mode) calcd for C7H5N2S: 149.0173. found: m/z 149.0172 [M−H]−.

reactant | 2-chloro-6-methylnicotinonitrile | 1.45 mmol, 220 mg | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | thiourea | 4.57 mmol, 348 mg | NC(=S)N | CH4N2S
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-mercapto-6-methylnicotinonitrile | 218 mg, 100% yield | SC1=C(C#N)C=CC(=N1)C | C7H6N2S
